*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* Va supply voltage
Vcc 1 0 5.07638677695V

* Test supply voltage
V6 9 6 0V

* Vc dependent supply voltage
Hc 4 7 V6 8.10223845988k

* Id current source
Id 5 7 1.0053213836mA

* Ib dependent current source 
Gb 3 5 (2,4) 7.26693007101m

* R1
R1 1 2 1.04944227714k

* R2
R2 2 3 2.06296295698k

* R3
R3 2 4 3.07855037163k

* R4
R4 0 4 4.04814283444k 

* R5
R5 4 5 3.03583837907k

* R6
R6 0 9 2.01824745844k

* R7
R7 6 7 1.04357678508k




.end
