* R1
R1 1 2 %.11fk

* R2
R2 2 3 %.11fk

* R3
R3 2 5 %.11fk

* R4
R4 0 5 %.11fk

* R5
R5 5 6 %.11fk

* R6
R6 0 aldr %.11fk

* Extra voltage source
Valdr aldr 7 0V

* R7
R7 7 8 %.11fk

* Ib dependent current source
Gb 6 3 (2,5) %.11fm

* Vd dependent supply voltage
Hc 5 8 Valdr %.11fk

* Vs supply voltage
Vs 1 0 0.0 ac 1.0 sin(0 1 1k)

* Capacitor
Cb 6 8 %.11fuF

.end

.op

.ic v(6)= %d v(8)= %d

.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

echo "********************************************"

echo  "Transient analysis"

echo "********************************************"

tran 1e-5 20e-3

hardcopy trans4.ps v(6) v(1)

echo trans4_FIG

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

ac dec 10 0.1 1MEG

hardcopy acm.ps db(v(6)) db(v(1))
echo acm_FIG
hardcopy acp.ps 180/PI*phase(v(6)) 180/PI*phase(v(1))
echo acp_FIG

quit

.endc


